US07994196B2
1H-Indazole-3-carbonylazide (synthesized according to the method described in Tetrahedron, 32, 4, 1976, 493-497, 200 mg) was dissolved in dimethylformamide (4 ml), and the mixture was stirred with heating at 100° C. for 30 min. 1-(4-Fluorophenyl)piperazine (Aldrich Co., 211 mg) was dissolved in dimethylformamide (1 ml) and added thereto, and the mixture was stirred with heating at 100° C. for 1 hr. After allowing to cool, water was added to the reaction mixture and the precipitated solid was collected by filtration and dried. The solid was washed in a suspension state with methanol to give 4-(4-fluorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide (64 mg, yield 18%).

reactant | 1H-Indazole-3-carbonylazide | N1N=C(C2=CC=CC=C12)C(=O)N=[N+]=[N-] | C8H5N5O
reactant | 1-(4-Fluorophenyl)piperazine | 211 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | water | O | H2O
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(4-fluorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide | 64 mg, yield 18% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C18H18FN5O
